US05604229
(1) 1-(2-Bromophenyl)octanol
Magnesium pieces (6.56 g) were added to anhydrous tetrahydrofuran (10 ml) in a stream of nitrogen and the mixture was stirred at room temperature. A solution (200 ml) of 1bromoheptane (48.4 g) in anhydrous tetrahydrofuran was dropwise added thereto while heating gradually and the mixture was stirred at 40° C. for 1 hour. Thereto was dropwise added a solution (100 ml) of 2-bromobenzaldehyde (25 g) in anhydrous tetrahydrofuran at room temperature and the mixture was stirred for 1 hour. The reaction mixture was poured into a saturated, aqueous ammonium chloride solution and extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was distilled away and the residue was purified by silica gel column chromatography (eluent; ethyl acetate:hexane=1:8) to give the subject compound (18.9 g) as an oily substance.

reactant | Magnesium | [Mg] | Mg
reactant | 1bromoheptane | 200 ml, 48.4 g | BrCCCCCCC | C7H15Br
reactant | 2-bromobenzaldehyde | 100 ml, 25 g | BrC1=C(C=O)C=CC=C1 | C7H5BrO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-(2-Bromophenyl)octanol | 18.9 g | BrC1=C(C=CC=C1)C(CCCCCCC)O | C14H21BrO
